US06300514B1
3-(4-aminophenylthio)propionic acid t-butyl ester
To a solution of 4-aminothiophenol (2.36 g) in tetrahydrofuran (THF; 20 ml), 2-propenoic acid t-butyl ester (3.51 ml) and 1.0M tetrabutylammonium fluoride in THF solution (340 μl) were added. The mixture solution was stirred for 30 minutes at room temperature to give the title compound. The compound was used for next reaction as such.

reactant | 4-aminothiophenol | 2.36 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | 2-propenoic acid t-butyl ester | 3.51 ml | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 340 μl | O1CCCC1 | C4H8O
product | 3-(4-aminophenylthio)propionic acid t-butyl ester | C(C)(C)(C)OC(CCSC1=CC=C(C=C1)N)=O | C13H19NO2S
